US04355164
To a solution of 6 g (0.022 mol) of 3-amino-2-carbomethoxyacetyl-6-methyl-thieno[2,3-b]pyridine in 1.8 ml acetic acid and 180 ml dioxane was slowly added 4.8 g (4.2 ml, 0.041 mol) of isoamylnitrite and stirring continued for 24 hours. It was then poured on ice-water, filtered and washed with water. The crude product was crystallized from DMSO/H2O to give 4.0 g (64%) of 3-carbomethoxy-4-hydroxy-7-methylpyrido[3',2':4,5]-thieno[3,2-c]pyridazine; m.p., 265°-268° C.

reactant | 3-amino-2-carbomethoxyacetyl-6-methyl-thieno[2,3-b]pyridine | 0.022 mol, 6 g | NC1=C(SC2=NC(=CC=C21)C)C(CC(=O)OC)=O | C12H12N2O3S
reactant | isoamylnitrite | 0.041 mol, 4.2 ml, 4.8 g | C(CC(C)C)ON=O | C5H11NO2
solvent | acetic acid | 1.8 ml | C(C)(=O)O | C2H4O2
solvent | dioxane | 180 ml | O1CCOCC1 | C4H8O2
product | 3-carbomethoxy-4-hydroxy-7-methylpyrido[3',2':4,5]-thieno[3,2-c]pyridazine | 4.0 g, 64% | C(=O)(OC)C1=C(C2=C(N=N1)C1=C(S2)N=C(C=C1)C)O | C12H9N3O3S
